US07855297B2
6-Chloronicotinic acid (3.15 g), 4-isopropylaniline (2.73 mL) and triethylamine (5.6 mL) were dissolved in DMF (150 mL). 1-Hydroxybenzotriazole monohydrate (hereinafter to be abbreviated as HOBt.H2O) (3.22 g) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (hereinafter to be abbreviated as WSCI.HCl) (4.03 g) were added under ice-cooling. The mixture was stirred at room temperature for one day and the reaction mixture was partitioned between water and ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated and ether was added to the residue. The precipitated solid was collected by filtration to give N-(4-isopropylphenyl)-6-chloropyridine-3-carboxamide (4.72 g).

reactant | 6-Chloronicotinic acid | 3.15 g | ClC1=NC=C(C(=O)O)C=C1 | C6H4ClNO2
reactant | 4-isopropylaniline | 2.73 mL | C(C)(C)C1=CC=C(N)C=C1 | C9H13N
reactant | 1-Hydroxybenzotriazole monohydrate | 3.22 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 4.03 g | Cl.C(C)N=C=NCCCN(C)C
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
solvent | triethylamine | 5.6 mL | C(C)N(CC)CC | C6H15N
product | N-(4-isopropylphenyl)-6-chloropyridine-3-carboxamide | 4.72 g | C(C)(C)C1=CC=C(C=C1)NC(=O)C=1C=NC(=CC1)Cl | C15H15ClN2O
